US04698349
To a solution of 1-ethoxycarbonyl-N-(1H-tetrazol5-yl)-4H-quinolizin-4-one-3-carboxamide (500 mg) in N,N-dimethylformamide (5 ml) was added 1N aqueous sodium hydroxide (6 ml) at room temperature and the mixture was heated at 100° C. for an hour. After cooling to 0° C., the mixture was acidified to pH 2 with 6N hydrochloric acid and the precipitate was filtered and washed with water to give 1-carboxy-N-(1H-tetrazol-5-yl)-4H-quinolizin-4-one-3-carboxamide (280 mg).

reactant | 1-ethoxycarbonyl-N-(1H-tetrazol5-yl)-4H-quinolizin-4-one-3-carboxamide | 500 mg | C(C)OC(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)NC1=NN=NN1 | C14H12N6O4
reactant | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-carboxy-N-(1H-tetrazol-5-yl)-4H-quinolizin-4-one-3-carboxamide | 280 mg | C(=O)(O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)NC1=NN=NN1 | C12H8N6O4
